US06632816B1
Preparation of (1S,5S)-(1-{5-[(3-Amino-4-fluoro-benzenesulfonyl)-isobutyl-amino]-6-hydroxy-hexylcarbamoyl}-2,2-diphenyl-ethyl)-carbamic Acid tert-Butyl Ester (MX-XX)
The title compound was prepared from the crude amine mixture of (1S)-N-(5-amino-1-hydroxymethyl-pentyl)-N-isobutyl-3-amino-4-fluoro-benzenesulfonamide which is described earlier (example 53, step C) and (2S)-2-tert-butoxycarbonylamino-3,3-diphenyl-propionic acid using general procedure A. The crude residue was purified by semi-preparative HPLC in several batches of 80 mg using a gradient of 50 to 80% of acetonitrile over 30 min and a flow rate of 15 mL/min, retention time=20.2 min. All the pure fractions were combined to provide 630 mg (46% yield) of the title compound.

reactant | (1S)-N-(5-amino-1-hydroxymethyl-pentyl)-N-isobutyl-3-amino-4-fluoro-benzenesulfonamide | NCCCC[C@@H](CO)N(S(=O)(=O)C1=CC(=C(C=C1)F)N)CC(C)C | C16H28FN3O3S
reactant | (2S)-2-tert-butoxycarbonylamino-3,3-diphenyl-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H23NO4
product | (1S,5S)-(1-{5-[(3-Amino-4-fluoro-benzenesulfonyl)-isobutyl-amino]-6-hydroxy-hexylcarbamoyl}-2,2-diphenyl-ethyl)-carbamic Acid tert-Butyl Ester | 630 mg, 46% yield | C(C)(C)(C)OC(N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(NCCCC[C@@H](CO)N(CC(C)C)S(=O)(=O)C1=CC(=C(C=C1)F)N)=O)=O | C36H49FN4O6S
